US08754095B2
4-{2-[4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-acetylamino}-piperidine-1-carboxylic acid ethyl ester
2-[4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-N-piperidin-4-yl-acetamide hydrochloride (0.51 g, 1.38 mmol) was dissolved in THF (20 mL) and water (5 mL) to form a clear solution. To this solution was added 0.30 g of ethyl chloroformate (3 mmol, 2 equiv), followed by K2CO3 (0.76 g, 5.52 mmol, 4 equiv). The clear solution was stirred at rt overnight. TLC (5% of 7N NH3 in MeOH/DCM) showed the SM was consumed completely. LCMS: a single peak at 2.559 with MS of 443 was detected. The two layers were separated and the aqueous layer was extracted with EtOAc (2×10 mL). The combined organic solution was washed with brine (2×10 mL), dried (K2CO3), filtered, and concentrated. The crude product was purified on a 25-g silica gel column to get 0.42 g (69%) of the title compound as a tan solid.

reactant | 2-[4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-N-piperidin-4-yl-acetamide hydrochloride | 1.38 mmol, 0.51 g | Cl.C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C1=CC=C(C=C1)CC(=O)NC1CCNCC1
reactant | ethyl chloroformate | 3 mmol, 0.30 g, 2 equiv | ClC(=O)OCC | C3H5ClO2
reactant | K2CO3 | 5.52 mmol, 0.76 g, 4 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | NH3 | 7N | N | H3N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH DCM | CO.C(Cl)Cl
solvent | water | 5 mL | O | H2O
product | 4-{2-[4-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-phenyl]-acetylamino}-piperidine-1-carboxylic acid ethyl ester | 0.42 g, 69% | C(C)OC(=O)N1CCC(CC1)NC(CC1=CC=C(C=C1)N1C[C@H](CC1)N1[C@H](CCC1)C)=O | C25H38N4O3
